US06476059B1
0.26 g of 6-chloro-8H-indeno[1,2-d]thiazol-2-yl-cyanamide is suspended in 10 ml of ethanol at room temperature and, after addition of 0.1 of aniline, heated to reflux for 6 h. The reaction mixture is concentrated in vacuo, and the residue is purified by chromatography on silica gel with 5/1 dichloromethane/ethyl acetate. N-(6-Chloro-8H-indeno[1,2-d]thiazol-2-yl)-N′-phenylguanidine is obtained and melts with decomposition at 210° C.

reactant | 6-chloro-8H-indeno[1,2-d]thiazol-2-yl-cyanamide | 0.26 g | ClC1=CC=2CC3=C(N=C(S3)NC#N)C2C=C1 | C11H6ClN3S
reactant | aniline | NC1=CC=CC=C1 | C6H7N
solvent | ethanol | 10 ml | C(C)O | C2H6O
product | N-(6-Chloro-8H-indeno[1,2-d]thiazol-2-yl)-N′-phenylguanidine | ClC1=CC=2CC3=C(N=C(S3)NC(=N)NC3=CC=CC=C3)C2C=C1 | C17H13ClN4S
